US04654338
To a solution of 3 g (12 mmole) of S-(2-aminostyryl)-S-phenyl-sulfoximine in 100 ml of dichloromethane was added 1.33 g (13 mmole) of triethylamine and 2.77 g (13 mmole) of trifluoroacetic anhydride and the mixture was stirred for 2 hours at room temperature. The solvent was removed in vacuo and the resultant oil taken up in 100 ml of toluene. 0.4 g (3 mmole) of 1,5-diazabicyclo[4.3.0]non-5-ene was added and the mixture was refluxed for 2 hours. Removal of solvent in vacuo and column chromatography (SiO2 petrol/dichloromethane) yielded 1.6 g (70%) of 1,5-diphenyl-3-trifluoromethyl-1H-1,2,4-thiadiazine-1-oxide melting at 136°-137° C. after crystallization from ether-petrol.

reactant | S-(2-aminostyryl)-S-phenyl-sulfoximine | 12 mmole, 3 g | NC1=C(C=CS(=O)(=N)C2=CC=CC=C2)C=CC=C1 | C14H14N2OS
reactant | triethylamine | 13 mmole, 1.33 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 13 mmole, 2.77 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 3 mmole, 0.4 g | N12CCCN=C2CCC1 | C7H12N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,5-diphenyl-3-trifluoromethyl-1H-1,2,4-thiadiazine-1-oxide | 1.6 g, 70% | C1(=CC=CC=C1)S1(NC(=NC(=C1)C1=CC=CC=C1)C(F)(F)F)=O | C16H13F3N2OS
